US06069156
To a stirred mixture of methyl (E)-4-[2-(dimethylamino)vinyl]-3-nitrobenzoate (500 mg), which was prepared by the method of Brown et al. described in Journal of Medicinal Chemistry, vol. 35, page 2419 (1992), and pyridine (0.16 ml) in tetrahydrofuran (3 ml) was added butyryl chloride (0.21 ml) at 20° C. The reaction mixture was stirred at 40° C. for 24 hours and 50° C. for 4 hours. After cooled to 20° C., the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and hexane (1:1) to give methyl 4-(1-dimethylaminomethylene-2-oxopentyl)-3-nitrobenzoate (426 mg) as colorless amorphous.

reactant | methyl (E)-4-[2-(dimethylamino)vinyl]-3-nitrobenzoate | 500 mg | CN(/C=C/C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])C | C12H14N2O4
reactant | pyridine | 0.16 ml | N1=CC=CC=C1 | C5H5N
reactant | butyryl chloride | 0.21 ml | C(CCC)(=O)Cl | C4H7ClO
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | methyl 4-(1-dimethylaminomethylene-2-oxopentyl)-3-nitrobenzoate | 426 mg | CN(C)C=C(C(CCC)=O)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C16H20N2O5
